US09145415B2
To a solution of tert-butyl (2-((3-bromophenethyl)amino)-2-oxoethyl)carbamate (R1, 290 mg) in dimethyl sulfoxide (40 mL), bis(pinacolato)diboron (618 mg), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride-dichloromethane complex (99 mg) and potassium acetate (478 mg) were added at room temperature, and the mixture was stirred at 80° C. for 14 hours. The reaction mixture was cooled to room temperature, and then saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the reaction mixture. The organic layer was separated, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl (2-oxo-2-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenethyl)amino)ethyl)carbamate (R2).

reactant | tert-butyl (2-((3-bromophenethyl)amino)-2-oxoethyl)carbamate | 290 mg | BrC=1C=C(CCNC(CNC(OC(C)(C)C)=O)=O)C=CC1 | C15H21BrN2O3
reactant | bis(pinacolato)diboron | 618 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 478 mg | C(C)(=O)[O-].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (2-oxo-2-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenethyl)amino)ethyl)carbamate | O=C(CNC(OC(C)(C)C)=O)NCCC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C21H33BN2O5
